Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
The pt is a ___ year-old woman who presents as a transfer from
___, intubated, for concern of status
epilepticus. All the history is obtained from the ___ Records as well as ___ records that were 
faxed
to ___. No family at bedside. The patient has a history of
an olfactory meningioma that was resected ___ at ___. According to her ___ discharge medicatins, she was
maintained on phenytoin 100mg po tid and dexamethasone 2mg po
bid. She never had a seizure. Today she went out shopping with
her husband. In the car on the way home she stopped talking and
became unresponsive. He then noticed odd eye movements and
all-over twitching. He carried her into the house and called 
EMS.
They arrived and reported witnessing a generalized tonic-clonic
seizure. They gave ativan 2mg and brought her to ___. There she
was noted to be having nystagmus, was unresponsive, and shaking
all over. Some reports mention R side > at left at times. She 
was
given another 4mg of ativan and intubated. At one point the ___ 
RN
notes that the patient was awake. But according to the 
medication
administration record, she then received another 6mg of IV 
ativan
and was loaded with phenytoin 1 g. She was then placed on a
propofol gtt prior to transfer. Routine labs showed no
abnormalities. Here she was hypotensive (although intial vitals
here were 130/64) and so she was taken off propofol and placed 
on
a midazolam gtt. She was very agitated and required several 
midaz
boluses. 

 
Past Medical History:
hx of atypical meningioma - grade 2 - resected at ___
___
olfactory meningioma s/p resection in ___M - type 2 
nephrolithiasis
Right lentiform lacunar infarct - discovered post-op after tumor
resection
hx of small left subdural hematoma along tentorium, also noted
post op after tumor resection

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Vitals: T: 97 P:86  BP:130/64  RR: 18 SaO2: 100% on vent 
___: Intubated, biting at tube. 
HEENT: NC/AT, no scleral icterus
Neck: Supple, no nuchal rigidity.  
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G
Abdomen: soft, NT/ND, normoactive bowel sounds
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions

Neurologic: (on midaz gtt at 7mg/hr)
-Unresponsive, agitated, biting tube and thrashing all
extremities equally. Eyes closed, when opened, gaze conjugate 
and
midline. Pupils pinpoint bilaterally. No blink to threat.
Corneals intact. Gag presents. No reflexes able to be elicited.
Localizes to noxious.

 
Pertinent Results:
___ 10:41PM   LACTATE-3.2*
___ 10:30PM   ___ PTT-25.4 ___
___ 10:21PM   TYPE-ART TIDAL VOL-450 PEEP-5 O2-40 PO2-142* 
PCO2-36 PH-7.41 TOTAL CO2-24 BASE XS-0 -ASSIST/CON 
INTUBATED-INTUBATED
___ 10:10PM   GLUCOSE-106* UREA N-8 CREAT-0.6 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-20* ANION GAP-16
___ 10:10PM   estGFR-Using this
___ 10:10PM   CHOLEST-156
___ 10:10PM   TRIGLYCER-227* HDL CHOL-45 CHOL/HDL-3.5 
LDL(CALC)-66
___ 10:10PM   PHENYTOIN-14.5
___ 10:10PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-POS 
barbitrt-NEG tricyclic-NEG
___ 10:10PM   WBC-9.9 RBC-4.38 HGB-11.4* HCT-33.1* MCV-76* 
MCH-26.1* MCHC-34.6 RDW-13.9
___ 10:10PM   NEUTS-74.4* LYMPHS-16.3* MONOS-3.0 EOS-6.3* 
BASOS-0.1
___ 10:10PM   PLT COUNT-225

MRI head:(Preliminary) Expected post surgical changes. No 
evidence of recurrence.

CSF: total protein-75, glucose 66 WBC 1 RBC 1
 
Brief Hospital Course:
This is a ___ year-old woman with hx of olfactory groove
meningioma s/p resection in ___ who presents as a transfer 
from ___, intubated, for concern of status epilepticus. 
Was on prophylactic dilantin since resection but denies a 
history of seizures. 

Neuro: The patient arrived intubated and was admitted to the 
ICU. She had already been loaded with dilantin so she was 
continued on her home dose. The patient was monitored on 
continuous EEG and did not have any further seizure activity. 
The second day of admission she was able to follow commands 
while off sedation so she was successfully extubated. She was 
transfered to the floor and did well. She was seen by physical 
therapy who recommended home ___. We also did an MRI to look for 
any reemergence of her meningioma that could have triggered the 
seizure but this showed only post-surgical changes. Her seizure 
was likely caused by a combination of her underlying 
vulnerability since meningioma resection plus an infection. 
Because of this she was continued on her home dose of dilantin 
with a goal level of ___.

ID: In the early morning after admission the patient spiked a 
fever to 103. She was empirically started on cefepime, acyclovir 
and ampicillin to cover for meningitis. She had an extensive 
work up including a lumbar puncture (WBC 1, RBC 1). No 
infectious source was identified and the HSV PCR was negative so 
all of her antibiotics were discontinued. 

Transition of care issues: Her PCP ___ arrange 
neurology follow up close to their home. A dilantin level will 
need to be checked in 10 days, goal ___

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from  ___ summary.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Pantoprazole 40 mg PO Q24H 
3. Phenytoin Sodium Extended 100 mg PO TID 

 
Discharge Medications:
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Pantoprazole 40 mg PO Q24H 
3. Phenytoin Sodium Extended 100 mg PO TID 
RX *phenytoin sodium extended [Dilantin Extended] 100 mg 1 
capsule(s) by mouth three times a day Disp #*90 Capsule 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Seizure
infection of unclear source

 
Discharge Condition:
alert and oriented, EOMI, face symmetric. ___ in tri, IP and TA. 
NO drift. Family reports that there are no cognitive or 
behavioral changes.

 
Discharge Instructions:
You came to the hospital because of a seizure. You were 
intubated at an outside hospital due to concerns that you might 
stop breathing during the seizure. You were then transfered to 
___. You had a fever the first day you were here but we could 
not find any source of an infection. You were intially placed on 
broad antibiotics but these have be stopped since all tests were 
negative. You were monitored on EEG while you were intubated and 
there was no further evidence of seizure. You were extubated and 
continued on your home dose of dilantin. Our thought is that you 
had a seizure as a result of your recent brain surgery in 
addition to an infection. We recommend that you follow up with a 
neurologist (will be arranged by your primary doctor), continue 
dilantin with a goal level of ___. 
 
Followup Instructions:
___